US07737136B2
trans-7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepine-1-amine (10 mg, 0.03 mmol) was dissolved in 1 mL of ethyl formate. The resulting mixture was heated to reflux for 18 h. The cooled mixture was evaporated to give trans-N-(7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)formamide (12.0 mg, 100%). Data: (m/z)=329 (M+H)+.

reactant | trans-7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepine-1-amine | 0.03 mmol, 10 mg | ClC1=CC2=C(OC3=C([C@H]4N2CCC[C@H]4N)C=CC=C3)C=C1 | C17H17ClN2O
reactant | ethyl formate | 1 mL | C(=O)OCC | C3H6O2
product | trans-N-(7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)formamide | 12.0 mg, 100% | ClC1=CC2=C(OC3=C([C@H]4N2CCC[C@H]4NC=O)C=CC=C3)C=C1 | C18H17ClN2O2
